US07956069B2
The preparation of (3aR,7aR)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one
To a solution of benzyl 4-[(3aR,7aR)-2-oxooctahydro-1H-benzimidazol-1-yl]-1,4′-bipiperidine-1′-carboxylate-(880 mg, 2.0 mmol) in methanol (25 mL) was added 10% Pd/C (0.1 g), the mixture was hydrogenated at 40 psi for 12 h. Filtration of catalyst and concentration of solvents afforded crude product (600 mg, 98%), which was used for the next step without further purification. MS (M+1): 307.31

reactant | benzyl 4-[(3aR,7aR)-2-oxooctahydro-1H-benzimidazol-1-yl]-1,4′-bipiperidine-1′-carboxylate- | 2.0 mmol, 880 mg | O=C1N[C@H]2[C@H](N1C1CCN(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)CCCC2 | C25H36N4O3
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | (3aR,7aR)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one | 600 mg, 98% | N1(CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O)C2CCNCC2 | C17H30N4O
